US06982352B2
In a similar manner to Example 1, 314.4 g (2.0 mol) of diamylamine (technical mixture of 18.3% by weight of diisopentylamine, 61.0% by weight of di-n/i-pentylamine and 19.2% by weight of di-n-pentylamine, remainder: 1.5% by weight) and 330.2 g (3.2 mol) of formaldehyde (29.1%) are reacted in a 1 l autoclave; a maximum pressure of 2.5 MPa is established at a temperature of 120° C. After the crude amine (aqueous and organic phase) has been degassed at a maximum temperature of 102° C., the water is removed on a water separator. The remaining organic phase is subsequently distilled. 329.1 g of N-methyldiamylamine having a purity of 91.8% are isolated, corresponding to a yield of 88.3% of theory.

reactant | diamylamine | 2.0 mol, 314.4 g | C(CCCC)NCCCCC | C10H23N
reactant | formaldehyde | 3.2 mol, 330.2 g | C=O | CH2O
product | N-methyldiamylamine | 329.1 g, yield of 88.3% | CN(CCCCC)CCCCC | C11H25N
